US06734191B2
AMD11038: Preparation of 5-Aminomethyl-2-{[(1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzoic acid methyl ester (hydrobromide salt)
A solution of 2-{[(4-cyano-2-methoxycarbonyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester (710 mg, 1.29 mmol) in saturated NH3(g)/MeOH (25 mL) was shaken at room temperature with a suspension of Raney® nickel (1.2 g) under hydrogen atmosphere (50 psi) for 17 h. The catalyst was removed by filtration over celite, and the filtrate was concentrated in vacuo. The crude material was filtered through silica gel (20:1:1 CH2Cl2/MeOH/NH4OH) to give a white foam (416 mg, 71%).

reactant | 2-{[(4-cyano-2-methoxycarbonyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester | 1.29 mmol, 710 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=C(C=C(C=C2)C#N)C(=O)OC | C32H33N5O4
reactant | MeOH | 25 mL | CO | CH4O
solvent | NH3 | N | H3N
catalyst | Raney® nickel | 1.2 g | [Ni] | Ni
product | 5-Aminomethyl-2-{[(1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzoic acid methyl ester | 416 mg, 71% | COC(C1=C(C=CC(=C1)CN)CN(C1CCCC=2C=CC=NC12)CC1=NC2=C(N1)C=CC=C2)=O | C27H29N5O2
